US08304419B2
Copper(I) oxide (0.077 g, 0.536 mmol) was added to a solution of [2-fluoro-4-nitro-3-(phenyloxy)phenyl]acetic acid (1.560 g, 5.36 mmol) in acetonitrile (20 mL). The mixture was heated in a 90° C. oil bath for 1 h. The reaction mixture was cooled to RT and the solvent was evaporated. The residue was taken up in dichloromethane and filtered through Celite. Flash chromatography (ethyl acetate:hexanes) gave 2-fluoro-3-methyl-6-nitrophenyl phenyl ether (0.888 g, 63.7% yield) as a yellow oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.74 (dd, 1H), 7.27-7.36 (m, 2H), 7.18 (t, 1H), 7.09 (t, 1H), 6.92 (d, 2H), 2.38 (s, 3H). ES MS: m/z 246 (M−1).

reactant | [2-fluoro-4-nitro-3-(phenyloxy)phenyl]acetic acid | 5.36 mmol, 1.560 g | FC1=C(C=CC(=C1OC1=CC=CC=C1)[N+](=O)[O-])CC(=O)O | C14H10FNO5
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
catalyst | Copper(I) oxide | 0.536 mmol, 0.077 g | [Cu-]=O
product | 2-fluoro-3-methyl-6-nitrophenyl phenyl ether | 0.888 g, 63.7% yield | C1(=CC=CC=C1)OC1=C(C(=CC=C1[N+](=O)[O-])C)F | C13H10FNO3
